US06649600B1
1,3-Dipropyl-8-(4-vinyl-bicyclo[2.2.2]oct-1-yl)-3,9-dihydro-purine-2,6-dione
To a stirred suspension of methyl triphenylphosphonium chloride (1.07 g, 3.0 mmol) in THF (20 ml) at 0° C. was added n-BuLi (1.4 M in hexane, 2.14 ml, 3.0 mmol). The resulting reddish-brown mixture was stirred at this temperature for 0.5 h and then at rt for 0.5 h. A solution of 4-(2,6-dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde (372 mg, 1.0 mmol) in THF (10 ml) was added over a period of 20 minutes and the resulting mixture was stirred overnight (12 h). The reaction mixture was partitioned between saturated aqeuous NH4Cl (20 ml) and EtOAc (20 ml) and the aqueous phase was extracted with EtOAc (20 ml). The combined organic extracts were washed with saturated aqeuous NaCl (50 ml), dried (MgSO4), filtered and evaporated in vacuo to afford an oil that was purified by radial chromatography (2 mm plate) using a gradient of 0-5% MeOH in CH2Cl2 as eluent. Product-containing fractions were combined and concentrated to afford 140 mg (38%) of a white solid. MS: 371 (MH+).

reactant | methyl triphenylphosphonium chloride | 3.0 mmol, 1.07 g | [Cl-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 3.0 mmol, 1.4 M, 2.14 ml | [Li]CCCC
reactant | 4-(2,6-dioxo-1,3-dipropyl-2,3,6,9-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde | 1.0 mmol, 372 mg | O=C1N(C(C=2N=C(NC2N1CCC)C12CCC(CC1)(CC2)C=O)=O)CCC | C20H28N4O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1,3-Dipropyl-8-(4-vinyl-bicyclo[2.2.2]oct-1-yl)-3,9-dihydro-purine-2,6-dione | 140 mg, 38% | C(CC)N1C(N(C=2NC(=NC2C1=O)C12CCC(CC1)(CC2)C=C)CCC)=O | C21H30N4O2
